US04007196
4-(4-Fluorophenyl)-1-methyl-1,2,3,6-tetrahydropyridine (50 g) was dissolved in a mixture of 21.6 ml of concentrated sulphuric acid and 50 ml of water. To the solution were added 25 ml of concentrated hydrochloric acid and 22.4 ml of 37% formaldehyde solution. The mixture was refluxed for 5 hours, cooled, and 125 ml of concentrated ammonia were added. The mixture was extracted with 50 ml of toluene. Drying of the toluene solution and distillation gave 38 g of 4-(4-fluorophenyl)-3-hydroxymethyl-1-methyl-1,2,3,6-tetrahydropyridine with b.p. 110°-120° C at 0.1 mm Hg.

reactant | 4-(4-Fluorophenyl)-1-methyl-1,2,3,6-tetrahydropyridine | 50 g | FC1=CC=C(C=C1)C=1CCN(CC1)C | C12H14FN
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | formaldehyde | 22.4 ml | C=O | CH2O
reactant | ammonia | 125 ml | N | H3N
solvent | sulphuric acid | 21.6 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 50 ml | O | H2O
product | 4-(4-fluorophenyl)-3-hydroxymethyl-1-methyl-1,2,3,6-tetrahydropyridine | 38 g | FC1=CC=C(C=C1)C=1C(CN(CC1)C)CO | C13H16FNO
